US04529736
An 86 g portion of m-bromoaniline was dissolved in a mixture of 150 ml of 12N hydrochloric acid and 100 ml of water, cooled in an ice-salt bath. A 100 g portion of ice was added, followed by a solution of 34.5 g of sodium nitrite in 80 ml of water, added dropwise over 45 minutes. A solution of 55.5 g of N-methylmaleimide and 12.5 g of cupric chloride dihydrate in 700 ml of acetone was then added slowly over 40 minutes, while maintaining the temperature between 10° C. and 15° C. A 56 g portion of sodium bicarbonate was added to achieve pH 2.6. The mixture was allowed to stand for 72 hours, and the resultant oil was extracted with 300 ml of chloroform. This solution was filtered through magnesium silicate. The filtrate was evaporated in vacuo and gave a crude crystalline product. The crude product was combined with 58 ml of 2,6-lutidine and 600 ml of isopropyl alcohol and heated on a steam bath for 1/2 hour. The reaction mixture was poured into 1.25 liters of water and allowed to stand at room temperature for 18 hours. The crystalline product was collected, washed with water, air dried, and then recrystallized from 500 ml of acetonitrile to give 62.5 g of 2-(m-bromophenyl)-N-methylmaleimide.

reactant | m-bromoaniline | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | sodium nitrite | 34.5 g | N(=O)[O-].[Na+]
reactant | N-methylmaleimide | 55.5 g | CN1C(C=CC1=O)=O | C5H5NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 2,6-lutidine | 58 ml | N1=C(C=CC=C1C)C | C7H9N
solvent | hydrochloric acid | 12N, 150 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | water | 80 ml | O | H2O
solvent | acetone | 700 ml | CC(=O)C | C3H6O
solvent | water | 1.25 liters | O | H2O
solvent | isopropyl alcohol | 600 ml | C(C)(C)O | C3H8O
product | 2-(m-bromophenyl)-N-methylmaleimide | 62.5 g | BrC=1C=C(C=CC1)C=1C(=O)N(C(C1)=O)C | C11H8BrNO2
